US04748162
p-Nitrobenzyl (5R,6S)-2-ethylsulfinyl-6-methoxy-pen-2-em-3-carboxylate
A solution of p-nitrobenzyl (5R,6S)-2-ethylthio-6-methoxy-pen-2-em-3-carboxylate (96 mg, 0.24 mmol) in anhydrous DMF (1.2 ml) is diluted with CH2Cl2 (2.4 ml) and cooled in an ice-bath. A solution of 85% m-chloroperoxybenzoic acid (51 mg, 0.25 mmol) in CH2Cl2 (1.2 ml) is added dropwise over 2 minutes to the cold, stirring solution. The resulting mixture is kept at 0° for 60 minutes, and then treated with excess Amberlyst-21 resin and stirred and additional 5 minutes. The mixture is filtered and the filtrate is diluted with CH2Cl2 and washed with 5 portions of H2O. The organic phase is dried over MgSO4, filtered, and evaporated under vacuum to give a crude residue of the title compound which is purified by rapid chromatography on silica gel.

reactant | p-nitrobenzyl (5R,6S)-2-ethylthio-6-methoxy-pen-2-em-3-carboxylate | 0.24 mmol, 96 mg | C(C)SC=1S[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2OC)=O | C16H16N2O6S2
reactant | m-chloroperoxybenzoic acid | 0.25 mmol, 51 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 2.4 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.2 ml | C(Cl)Cl | CH2Cl2
product | p-Nitrobenzyl (5R,6S)-2-ethylsulfinyl-6-methoxy-pen-2-em-3-carboxylate | C(C)S(=O)C=1S[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C([C@@H]2OC)=O | C16H16N2O7S2
